data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_70930_1,[C:1]([C:3]([N:2]([O:5][H:6])[H:7])=[C:4]([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:3]1([O:5][H:6])[N:2]([H:7])[C:4]1([H:11])[H:12])([H:8])([H:9])[H:10],62.5241000000139
MR_134047_0,[C:1]([C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[H:11])([O:5][O:6][C:3]([H:12])([H:13])[H:14])([O:7][H:8])[H:9]>>[C:1]([O:5][C:2]([C:4]([H:15])([H:16])[H:17])([H:10])[H:11])([O:6][C:3]([H:12])([H:13])[H:14])([O:7][H:8])[H:9],55.46911749995573
MR_674467_1,[C:1]([N:4](/[C:5]([O:7][H:10])=[N:8]/[C:2]([H:15])([H:16])[H:17])/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:9]\[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:4]=[C:5](\[O:7][H:10])[N:8]([C:2]([H:15])([H:16])[H:17])/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:9]\[H:11])([H:12])([H:13])[H:14],41.094975000007
MR_23789_1,[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([O:7][H:10])[H:12])([C:4]([O:6][H:9])=[O:8])([N:5]([H:13])[H:14])[H:11]>>[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[O:7])([C:4]([O:6][H:9])([O:8][H:10])[H:12])([N:5]([H:13])[H:14])[H:11],65.48276249999887
MR_105537_0,[C:1]([C:3]([N:5]([H:9])[H:10])=[O:8])(/[C:4]([N:6]([H:11])[H:12])=[C:7](\[C:2]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14]>>[C:1](=[C:4]([N:6]([H:11])[H:12])[C:7]([C:2]([H:16])([H:17])[H:18])([C:3]([N:5]([H:9])[H:10])=[O:8])[H:15])([H:13])[H:14],70.5617475000166
MR_122095_2,[C:1](/[N:7]=[C:4]([C:2]([H:12])([H:13])[H:14])/[N:6]=[C:5](/[C:3]([H:15])([H:16])[H:17])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:7]1[C:4]([C:2]([H:12])([H:13])[H:14])=[N:6][C:5]1([C:3]([H:15])([H:16])[H:17])[H:8])([H:9])([H:10])[H:11],31.79668000001257
MR_202387_0,[C@:1]([C:2]([H:13])([H:14])[H:15])(/[C:5](=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])[H:11])([O:7][N:4]([H:9])[H:10])[H:8]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:5](/[C@@:6]([C:3]([H:16])([H:17])[H:18])([O:7][N:4]([H:9])[H:10])[H:12])[H:11])[H:8],46.982807499980055
MR_122471_1,[C:1]1([C:3]([H:17])([H:18])[H:19])([H:10])[C:5]([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])([O:7][N:6]([H:11])[H:12])[N:8]1[H:13]>>[C:1]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[H:9])(/[C:5]([O:7][N:6]([H:11])[H:12])=[N:8]/[H:13])[H:10],61.19944750000542
MR_105833_0,[C:1]([C:5]1=[C:4]([N:6]([H:10])[H:11])[N:2]1[C:3]([O:7][H:9])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C@:5]1([C:3]([O:7][H:9])=[O:8])[N:2][C:4]1[N:6]([H:10])[H:11])([H:12])([H:13])[H:14],27.73738249998857
MR_276015_1,[C:1]1([O:7][H:9])([H:11])[C:4]([O:8][H:10])=[C:5]([C:3]([H:14])([H:15])[H:16])[C:2]([H:12])([H:13])[O:6]1>>[C:1](=[C:4](/[C:5]1([C:3]([H:14])([H:15])[H:16])[C:2]([H:12])([H:13])[O:6]1)[O:8][H:10])(\[O:7][H:9])[H:11],61.52072749997899
MR_24328_0,[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:7]([C:5](/[C:2]([H:14])([H:15])[H:16])=[C:4](/[N:6]([H:9])[H:10])[O:8][H:13])\[H:11])[H:12]>>[C:1]([C:3]([H:17])([H:18])[H:19])(/[C:7](=[C:5](/[C:2]([H:14])([H:15])[H:16])[C:4]([N:6]([H:9])[H:10])=[O:8])[H:11])([H:12])[H:13],14.830335000009711
MR_283392_1,[C:1](/[C:3](=[C:4]([C:2]([H:17])([H:18])[H:19])/[C:7](=[C:6](\[O:8][H:9])[H:12])[H:13])[N:5]([H:10])[H:11])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([N:5]([H:10])[H:11])[C:4]([C:2]([H:17])([H:18])[H:19])=[C:7]([H:13])[C:6]1([O:8][H:9])[H:12])([H:14])([H:15])[H:16],56.44990000001201
MR_176766_1,[C:1]([N:3]([C:4]([N:2]([O:5][H:7])[H:8])=[O:6])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:3](/[C:4](=[N:2]/[O:5][H:8])[O:6][H:7])[H:9])([H:10])([H:11])[H:12],56.69587999999735
MR_484916_0,[C@@:1]12([C@@:2]([N:6]([H:10])[H:11])([H:8])[C@:3]1([C:5]([H:14])([H:15])[H:16])[H:9])[C:4]([H:12])([H:13])[O:7]2>>[C:1]12([C:2]([N:6]([H:10])[H:11])([H:8])[C:3]1([C:5]([H:14])([H:15])[H:16])[H:9])[C:4]([H:12])([H:13])[O:7]2,70.3082375000146
MR_360729_0,[C:1](=[C:3]([C:5]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[N:7]\[H:9])[H:12])[H:13])[O:6][H:8])([H:10])[H:11]>>[C:1](/[C:3](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:13])[O:6][H:8])(/[C:4](=[N:7]\[H:9])[H:12])([H:10])[H:11],70.56363000001184
MR_110210_1,[C:1]([C:3]([H:13])([H:14])[H:15])([O:6][C:2]([H:10])([H:11])[H:12])(/[N:7]=[C:5](\[C:4]([H:16])([H:17])[H:18])[H:9])[H:8]>>[C:1](\[C:3]([H:13])([H:14])[H:15])(=[N:7]/[C:5]([C:4]([H:16])([H:17])[H:18])([O:6][C:2]([H:10])([H:11])[H:12])[H:9])[H:8],57.93833000003502
MR_685540_0,[C:1](\[C:3]([H:16])([H:17])[H:18])(=[N:8]\[C:7]1([H:13])[C:5]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([N:6]([H:11])[H:12])[O:9]1)[H:10]>>[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])(/[N:8]=[C:7](\[C:5]([N:6]([H:11])[H:12])=[O:9])[H:13])[H:10],55.19176249997827
MR_407023_0,[C:1]([C:2]([O:6][H:9])([H:13])[H:14])([C:3]([N:4]([H:11])[H:12])=[O:7])([O:5][H:8])[H:10]>>[C:1]([C:3]([C:2]([O:6][H:9])([H:13])[H:14])=[O:7])([N:4]([H:11])[H:12])([O:5][H:8])[H:10],59.96892000000898
MR_555168_0,[C:1](/[C:3]([N:6]([H:14])[H:15])=[N:8]/[N:4]([H:10])[H:11])([N:5]([H:12])[H:13])([O:7][C:2]([H:16])([H:17])[H:18])[H:9]>>[C:1]1([N:5]([H:12])[H:13])([H:9])[C:3]([N:6]([H:14])[H:15])([O:7][C:2]([H:16])([H:17])[H:18])[N:8]1[N:4]([H:10])[H:11],56.61053999999879
